US07935696B2
4′-Chloro-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)biphenyl-3-carboxamide
To a solution of 4′-chlorobiphenyl-3-carboxylic acid (40 mg, 0.17 mmol) in DMF (0.5 mL) was added EDCI (40 mg, 0.21 mmol) and HOBt (26 mg, 0.19 mmol) and the resulting solution was stirred at rt for 15 min. At this time, DIPEA (0.042 mL, 0.26 mmol) was added and the mixture was stirred at rt for ˜16 h. Crushed ice (˜2 mL volume) was added and the mixture was stirred for 2 h and the product was collected by vacuum filtration, washed with water and dried to afford 59 mg of a white solid as the title compound (Example 128). HPLC Ret. Time=3.67 min, LCMS [M+H]+ 405.19.

reactant | 4′-chlorobiphenyl-3-carboxylic acid | 0.17 mmol, 40 mg | ClC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C13H9ClO2
reactant | EDCI | 0.21 mmol, 40 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.19 mmol, 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.26 mmol, 0.042 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4′-Chloro-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)biphenyl-3-carboxamide | 59 mg | ClC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C24H21ClN2O2
